* c:\fossee\esim\library\subcircuitlibrary\lm13700\lm13700.cir

.include D.lib
.include PNP.lib
.include NPN.lib
q3 net-_q2-pad1_ net-_d4-pad2_ /v+ Q2N2907A
d4 /v+ net-_d4-pad2_ 1N4148
q6 net-_q10-pad2_ net-_q2-pad1_ net-_d4-pad2_ Q2N2907A
q7 net-_q5-pad1_ net-_d5-pad2_ /v+ Q2N2907A
d5 /v+ net-_d5-pad2_ 1N4148
q9 /output net-_q5-pad1_ net-_d5-pad2_ Q2N2907A
q11 /v+ /buffer_input net-_q11-pad3_ Q2N2222
q12 /v+ net-_q11-pad3_ /buffer_output Q2N2222
q2 net-_q2-pad1_ /input- net-_q2-pad3_ Q2N2222
q5 net-_q5-pad1_ /input+ net-_q2-pad3_ Q2N2222
d3 /diode_bias /input+ 1N4148
d1 /diode_bias /input- 1N4148
q4 net-_q2-pad3_ /amp_bias_input net-_d2-pad1_ Q2N2222
q1 /amp_bias_input net-_d2-pad1_ /v- Q2N2222
d2 net-_d2-pad1_ /v- 1N4148
q10 /output net-_q10-pad2_ net-_d6-pad1_ Q2N2222
q8 net-_q10-pad2_ net-_d6-pad1_ /v- Q2N2222
d6 net-_d6-pad1_ /v- 1N4148
q15 net-_q14-pad1_ net-_d10-pad2_ /v+ Q2N2907A
d10 /v+ net-_d10-pad2_ 1N4148
q18 net-_q18-pad1_ net-_q14-pad1_ net-_d10-pad2_ Q2N2907A
q19 net-_q17-pad1_ net-_d11-pad2_ /v+ Q2N2907A
d11 /v+ net-_d11-pad2_ 1N4148
q21 /output net-_q17-pad1_ net-_d11-pad2_ Q2N2907A
q23 /v+ /bufer_input net-_q23-pad3_ Q2N2222
q24 /v+ net-_q23-pad3_ /buffer_output Q2N2222
q14 net-_q14-pad1_ /input- net-_q14-pad3_ Q2N2222
q17 net-_q17-pad1_ /input+ net-_q14-pad3_ Q2N2222
d9 /diode_bias /input+ 1N4148
d7 /diode_bias /input- 1N4148
q16 net-_q14-pad3_ /amp_bias_input net-_d8-pad1_ Q2N2222
q13 /amp_bias_input net-_d8-pad1_ /v- Q2N2222
d8 net-_d8-pad1_ /v- 1N4148
q22 /output net-_q18-pad1_ net-_d12-pad1_ Q2N2222
q20 net-_q18-pad1_ net-_d12-pad1_ /v- Q2N2222
d12 net-_d12-pad1_ /v- 1N4148
* u1  /v+ /diode_bias /input- /input+ /amp_bias_input /v- /output /diode_bias /input- /input+ /amp_bias_input /buffer_output /buffer_input /output /buffer_output /bufer_input port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
