* c:\users\chaithu\fossee\esim\library\subcircuitlibrary\lm13700\lm13700.cir

.include D.lib
.include PNP.lib
.include NPN.lib
q1 net-_q1-pad1_ /input_-_ net-_q1-pad3_ Q2N2222
q5 net-_q5-pad1_ /input_+_ net-_q1-pad3_ Q2N2222
d1 /diodebias /input_-_ 1N4148
q4 net-_q1-pad3_ /ampbiasinput net-_d2-pad1_ Q2N2222
q2 /ampbiasinput net-_d2-pad1_ /v_-_ Q2N2222
d2 net-_d2-pad1_ /v_-_ 1N4148
d4 /diodebias /input_+_ 1N4148
q3 net-_q1-pad1_ net-_d3-pad2_ /v_+_ Q2N2907A
q6 net-_q10-pad2_ net-_q1-pad1_ net-_d3-pad2_ Q2N2907A
d3 /v_+_ net-_d3-pad2_ 1N4148
q8 net-_q10-pad2_ net-_d6-pad1_ /v_-_ Q2N2222
q10 /output net-_q10-pad2_ net-_d6-pad1_ Q2N2222
d6 net-_d6-pad1_ /v_-_ 1N4148
q9 /output net-_q5-pad1_ net-_d5-pad2_ Q2N2907A
q7 net-_q5-pad1_ net-_d5-pad2_ /v_+_ Q2N2907A
d5 /v_+_ net-_d5-pad2_ 1N4148
q11 net-_q11-pad1_ /input2_-_ net-_q11-pad3_ Q2N2222
q15 net-_q15-pad1_ /input2_+_ net-_q11-pad3_ Q2N2222
d7 /diodebias2 /input2_-_ 1N4148
q14 net-_q11-pad3_ /ampbiasinput2 net-_d8-pad1_ Q2N2222
q12 /ampbiasinput2 net-_d8-pad1_ /v_-_ Q2N2222
d8 net-_d8-pad1_ /v_-_ 1N4148
d10 /diodebias2 /input2_+_ 1N4148
q13 net-_q11-pad1_ net-_d9-pad2_ /v_+_ Q2N2907A
q16 net-_q16-pad1_ net-_q11-pad1_ net-_d9-pad2_ Q2N2907A
d9 /v_+_ net-_d9-pad2_ 1N4148
q18 net-_q16-pad1_ net-_d12-pad1_ /v_-_ Q2N2222
q20 /output2 net-_q16-pad1_ net-_d12-pad1_ Q2N2222
d12 net-_d12-pad1_ /v_-_ 1N4148
q19 /output2 net-_q15-pad1_ net-_d11-pad2_ Q2N2907A
q17 net-_q15-pad1_ net-_d11-pad2_ /v_+_ Q2N2907A
d11 /v_+_ net-_d11-pad2_ 1N4148
* u1  /diodebias /input_-_ /v_+_ /v_-_ /ampbiasinput /input_+_ /diodebias2 /input2_-_ /output /ampbiasinput2 /input2_+_ /output2 port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
